US05134148
Using the procedure described in Example 1, 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one was reacted with (2S,4R)-4-(3-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran to give (2S,4R)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2-methyltetrahydropyran in 69% yield, m.p. 88°-90° C.

reactant | 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | (2S,4R)-4-(3-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran | OC=1C=C(C=CC1)[C@@]1(C[C@@H](OCC1)C)OC | C13H18O3
product | (2S,4R)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2-methyltetrahydropyran | 69% yield | CN1C(C=CC2=CC(=CC=C12)COC=1C=C(C=CC1)[C@@]1(C[C@@H](OCC1)C)OC)=O | C24H27NO4
